data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-C(C)(C)C_2-CC_3-C(C(F)(F)F)C(F)(F)F_4-c1ccc(S(=O)(=O)C)cc1","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["C(C)(C)CC(=O)[H]","CCOC(=O)CP(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(S(=O)(=O)C)cc1)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["C(C)(C)C/C=C\\C(=O)OCC"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCOC(=O)[CH-]P(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(S(=O)(=O)C)cc1)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCOC(=O)C(P(=O)(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(S(=O)(=O)C)cc1))C([O-])C(C)(C)C","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCOC(=O)C1C(C(C)(C)C)OP1([O-])(OC(C(F)(F)F)C(F)(F)F)(Oc1ccc(S(=O)(=O)C)cc1)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)C/C=C\\C(=O)OCC","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
{"reaction_id": "NR-117_1-C_2-C1CC1_3-C1CCCCC1_4-C1CCCCC1_5-CCC","name": "Johnson-Claisen Rearrangement","level": "medium","reactants_smiles": ["C(=C(C1CCCCC1)C1CC1)(C)C(C1CCCCC1)(CCC)O","C(C)(OC)(OC)OC"],"products_smiles": ["C(C(=O)OC)C(C1CCCCC1)(CCC)C(C1CCCCC1)=C(C)C1CC1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(OC)(OC)[OH+]C","rationale": "Acid protonates the orthoester oxygen, increasing the electrophilicity of the adjacent carbon via inductive withdrawal and making it more susceptible to C–O bond cleavage."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C+](C)(OC)(OC)","rationale": "Heterolytic cleavage occurs because the protonated oxygen stabilizes the leaving group, generating a carbocation stabilized by adjacent alkoxy groups through resonance donation."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[OH+](C(C1CCCCC1)(CCC)C(C1CCCCC1)=C(C)C1CC1)C(C)(OC)OC","rationale": "The allylic alcohol oxygen attacks the carbocation, favored by the strong electrophilicity of the cation and the nucleophilicity of the alcohol under acidic conditions."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(C(C1CCCCC1)(CCC)C(C1CCCCC1)=C(C)C1CC1)C(C)([OH+]C)OC","rationale": "Proton transfer from the newly bound alcohol oxygen to an adjacent alkoxy group facilitates further activation and rearrangement by generating a better leaving group."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(OC)C)OC(C1CCCCC1)(CCC)C(C1CCCCC1)=C(C)C1CC1","rationale": "Another proton transfer generates the enol ether intermediate, driven by the stability of the conjugated alkene–ether system and relief of positive charge."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(C(=O)OC)C(C1CCCCC1)(CCC)C(C1CCCCC1)=C(C)C1CC1","rationale": "The [3,3]-sigmatropic rearrangement proceeds thermally due to favorable orbital overlap, forming a more stable carbonyl-containing product via conjugation and bond reorganization."}],"description": "Under acidic conditions, the Johnson–Claisen rearrangement proceeds via protonation and activation of the orthoester, generating an electrophilic species that reacts with the allylic alcohol. Subsequent proton transfers set up an enol ether intermediate, which undergoes a [3,3]-sigmatropic rearrangement to yield the γ,δ-unsaturated ester."}
